US04173633
The starting material is prepared as follows: The mixture of 20 g of 1-(2-oxopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one, 37.5 ml of ethylene glycol and 0.95 g of boron trifluoride etherate in benzene is refluxed under a water trap for 6 hours. It is cooled and 10 g of sodium hydroxide in 140 ml of water are added rapidly and the mixture is extracted with chloroform. The extract is dried, evaporated and the residue is crystallized from diethyl ether, to yield the 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one melting at 192°-194°.

reactant | 1-(2-oxopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one | 20 g | O=C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C18H21NO3
reactant | ethylene glycol | 37.5 ml | C(CO)O | C2H6O2
reactant | boron trifluoride etherate | 0.95 g | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 140 ml | O | H2O
product | 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | CC1(OCCO1)CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O | C20H25NO4
